US06391887B1
8-Fluoro-1,2,3,5-tetrahydrocyclopenta[c]quinolin-4-one
A solution of 4-fluorophenylisocyanate (5.0 g, 36.5 mmol) in chloroform (25 ml) is mixed with 1-morpholino-1-cyclopentene (5.5 ml, 36.5 mmol) and refluxed for 15 minutes. The batch is concentrated by evaporation and purified by column chromatography (SiO2) with ethyl acetate-hexane: 7.6 g (94%) of cyclopentanone-2-carboxylic acid-(4-fluorophenyl)amide, 1H-NMR (DSC842). The amide is stirred in concentrated sulfuric acid (30 ml) for 30 minutes at 100° C. The batch is poured onto ice water and filtered. The filter residue is recrystallized from ethanol: 2.02 g (29%) of product.

reactant | 4-fluorophenylisocyanate | 36.5 mmol, 5.0 g | FC1=CC=C(C=C1)N=C=O | C7H4FNO
reactant | 1-morpholino-1-cyclopentene | 36.5 mmol, 5.5 ml | O1CCN(CC1)C1=CCCC1 | C9H15NO
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 8-Fluoro-1,2,3,5-tetrahydrocyclopenta[c]quinolin-4-one | FC1=CC=2C3=C(C(NC2C=C1)=O)CCC3 | C12H10FNO
